US06624163B2
4-[(Cyclopropanecarbonyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminomethyl-benzamide and cyclopropanecarbonyl chloride, the title compound was prepared as light-yellow crystals (64% yield). MS: m/e=467(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN)=O)N2CCOCC2 | C20H22N4O3S
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 4-[(Cyclopropanecarbonyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | C1(CC1)C(=O)NCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C24H26N4O4S
